US04405635
4-Benzoyl-1,3-dihydro-2H-imidazol-2-one
To 51 ml of nitrobenzene is added 1.68 g of 1,3-dihydro-2H-imidazol-2-one, 5.3 g of aluminum chloride and 3.1 g of benzoyl chloride. The mixture is stirred for 3 hours at 60° C. and poured into ice water. The solids are filtered, washed with ether and recrystallized twice from methyl alcohol-water to afford the title compound. M.P. 329°-30° C.

reactant | nitrobenzene | 51 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 1,3-dihydro-2H-imidazol-2-one | 1.68 g | N1C(NC=C1)=O | C3H4N2O
reactant | aluminum chloride | 5.3 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoyl chloride | 3.1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-Benzoyl-1,3-dihydro-2H-imidazol-2-one | C(C1=CC=CC=C1)(=O)C=1NC(NC1)=O | C10H8N2O2
